US09163021B2
di-tert-butyl {5-[(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)carbonyl]-2-methoxypyridin-3-yl}imidodicarbonate
To a solution of 3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine (Preparation 45, 250 mg, 0.875 mmol) in ether (5 mL) at −78° C. was added nBuLi (2.3M in hexane, 0.38 mL, 0.875 mmol) and the reaction stirred at this temperature for 30 minutes. A solution of di-tert-butyl {2-methoxy-5-[methoxy(methyl)carbamoyl]pyridin-3-yl}imidodicarbonate (Preparation 69, 300 mg, 0.729 mmol) in ether (2 mL) was added and the reaction continued to stir at this temperature for another 30 minutes. The reaction was warmed to room temperature for 2 hours before being quenched by the addition of saturated ammonium chloride solution. The reaction was extracted into EtOAc (3×15 mL), the combined organic layers were washed with water (15 mL), brine (15 mL), dried over sodium sulphate and concentrated in vacuo. The residue was purified using preparative TLC eluting with EtOAc:DCM 50:50 to afford the title compound and taken on to the next step directly.

reactant | 3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine | 0.875 mmol, 250 mg | IC1=CN(C2=C1C=NC=C2)C(C)C | C10H11IN2
reactant | nBuLi | 0.875 mmol, 2.3M, 0.38 mL | [Li]CCCC
reactant | di-tert-butyl {2-methoxy-5-[methoxy(methyl)carbamoyl]pyridin-3-yl}imidodicarbonate | 0.729 mmol, 300 mg | COC1=NC=C(C=C1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(N(C)OC)=O | C19H29N3O7
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
product | di-tert-butyl {5-[(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)carbonyl]-2-methoxypyridin-3-yl}imidodicarbonate | C(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=C(C(=NC2)OC)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H34N4O6
